US07358248B2
(2R)-tert-Butoxycarbonylamino-3-(4′-indol-1-ylbiphen-4-ylmethylsulfinyl)-propionic acid
Sodium perborate tetrahydrate (151 mg, 0.95 mmol) was added as a solid to a stirred solution of (2R)-tert-Butoxycarbonylamino-3-(4′-indol-1-ylbiphen-4-ylmethylsulfanyl)-propionic acid (380 mg, 0.76 mmol) in acetic acid (10 mL) at 40° C. This solution was stirred at 40° C. for 2 hours (HPLC control) and then diluted with ethyl acetate (50 mL), washed with water, brine (2×), dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification by trituration of the product with diethyl ether afforded the title compound as a 2:1 mix of diastereoisomers as an off-white solid (372 mg, 95%): mp. 169-170° C. Rf 0.65 (20% methanol in dichloromethane). 1H NMR (DMSO-d6, 300 MHz): δ 7.88 (2H, d, J=8 Hz, Ar—H), 7.62-7.78 (7H, m, Ar—H), 7.44 (2H, d, J=8 Hz, Ar—H), 7.36 (1H, d, J=8 Hz, NH), 7.11-7.22 (2H, m, Ar—H), 6.72 (1H, d, J=3.5 Hz, Ar—H), 4.06-4.26 (3H, m, CHN+PhCH2), 2.96-3.04 (2H, m, CH2CHN), 1.39 (3H, s, CMe3, minor isomer), 1.36 (6H, s, CMe3, major isomer), ESI-LCMS e/z calcd for C29H30N2O5S: 518.631, found 519 (M+H)+, 541 (M+Na)+.

reactant | Sodium perborate tetrahydrate | 0.95 mmol, 151 mg | B1(OO1)[O-].O.O.O.O.[Na+]
reactant | (2R)-tert-Butoxycarbonylamino-3-(4′-indol-1-ylbiphen-4-ylmethylsulfanyl)-propionic acid | 0.76 mmol, 380 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CSCC1=CC=C(C=C1)C1=CC=C(C=C1)N1C=CC2=CC=CC=C12 | C29H30N2O4S
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (2R)-tert-Butoxycarbonylamino-3-(4′-indol-1-ylbiphen-4-ylmethylsulfinyl)-propionic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CS(=O)CC1=CC=C(C=C1)C1=CC=C(C=C1)N1C=CC2=CC=CC=C12 | C29H30N2O5S
